US07592345B2
c) step 3: 4-Bromo-2-(3,4-dichloro-phenyl)-2-methyl-butyric acid methyl ester
To a mixture of 3.3 g (13.5 mmol) 3-(3,4-dichloro-phenyl)-3-methyl-dihydro-furan-2-one in 15 mL acetic acid was added 48 mL HBr (33%) in acetic acid and after 63 h 20 mL HBr (33%) in acetic acid and stirred for another 21 h at room temperature. The mixture was pored onto ice-water and extracted with ethyl ether. The combined organic phases were washed with NaCl aq. sat., dried with Na2SO4, filtered and evaporated to dryness. The residue was taken up in 150 mL toluene and 6.5 mL (89 mmol) thionylchloride were added. The mixture was heated to 75° C. for 4 h, cooled to 0° C., treated with 20 mL methanol and allowed to stand for 16 h at room temperature. The mixture was evaporated to dryness and subjected to column chromatography on silica eluting with a gradient formed from ethyl acetate and heptane. The product containing fractions were evaporated to yield 4.32 g (94%) of the title compound as light yellow oil. MS(m/e): 341.9 (MH+).

reactant | 3-(3,4-dichloro-phenyl)-3-methyl-dihydro-furan-2-one | 13.5 mmol, 3.3 g | ClC=1C=C(C=CC1Cl)C1(C(OCC1)=O)C | C11H10Cl2O2
reactant | HBr | 48 mL | Br | BrH
reactant | HBr | 20 mL | Br | BrH
reactant | thionylchloride | 89 mmol, 6.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 20 mL | CO | CH4O
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 4-Bromo-2-(3,4-dichloro-phenyl)-2-methyl-butyric acid methyl ester | 4.32 g, 94% | COC(C(CCBr)(C)C1=CC(=C(C=C1)Cl)Cl)=O | C12H13BrCl2O2
